US05281593
i) 3-[α-Hydroxy-3-{2-(E)-(quinolin-2-yl)ethenyl}benzyl]benzonitrile
2.5M n-Butyl lithium solution in hexane (2.6 ml) was added dropwise to a stirred solution of 3-bromobenzonitrile (1.2 g, 6.56 mmol) in tetrahydrofuran (20 ml) and ether (20 ml) at -100° to -110° C. under nitrogen. The yellow solution was stirred at -100° C. for 5 minutes, then a solution of 3-[2(E)-(quinolin-2-yl)ethenyl]benzaldehyde (1.7 g, 6.56 mmol) in tetrahydrofuran (7 ml) was added. The dark brown solution was allowed to warm to room temperature, poured onto saturated ammonium chloride solution and extracted with ethyl acetate. The extract was dried and evaporated and the residue was chromatographed on silica in ethyl acetate-hexane (1:2) to give a pale yellow solid.

reactant | n-Butyl lithium | 2.5M | C(CCC)[Li]
reactant | 3-bromobenzonitrile | 6.56 mmol, 1.2 g | BrC=1C=C(C#N)C=CC1 | C7H4BrN
reactant | 3-[2(E)-(quinolin-2-yl)ethenyl]benzaldehyde | 6.56 mmol, 1.7 g | N1=C(C=CC2=CC=CC=C12)/C=C/C=1C=C(C=O)C=CC1 | C18H13NO
reactant | ammonium chloride | [Cl-].[NH4+]
solvent | hexane | 2.6 ml | CCCCCC | C6H14
solvent | tetrahydrofuran | 20 ml | O1CCCC1 | C4H8O
solvent | ether | 20 ml | CCOCC | C4H10O
solvent | tetrahydrofuran | 7 ml | O1CCCC1 | C4H8O
product | 3-[α-Hydroxy-3-{2-(E)-(quinolin-2-yl)ethenyl}benzyl]benzonitrile | OC(C1=CC(=CC=C1)\C=C\C1=NC2=CC=CC=C2C=C1)C=1C=C(C#N)C=CC1 | C25H18N2O
